US05744627
Methyl 4-aminomethylsalicylate hydrochloride (5.04 g, 23.2 mmoles) was suspended in chloroform (80 mL) and N,N-diisopropylethylamine (4.10 mL, 23.5 mmoles) and N-(benzyl-oxycarbonyloxy)succinimide (6.48 g, 26.0 mmoles) were added. The reaction mixture was stirred at room temperature for 4 hours, during which time all solids dissolved. The reaction mixture was then extracted with 1N aqueous hydrochloric acid (100 mL), water (75 mL), and saturated aqueous sodium chloride (50 mL). The chloroform solution was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to give a white solid. The product was crystallized from ethyl acetate:hexanes to afford 6.17 g (84% yield) of methyl N-(benzyloxy-carbonyl)-4-aminomethylsalicylate (m.p. 91°-92°C., open capillary, uncorrected).

reactant | Methyl 4-aminomethylsalicylate hydrochloride | 23.2 mmoles, 5.04 g | Cl.NCC=1C=C(C(C(=O)OC)=CC1)O
reactant | N,N-diisopropylethylamine | 23.5 mmoles, 4.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(benzyl-oxycarbonyloxy)succinimide | 26.0 mmoles, 6.48 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl N-(benzyloxy-carbonyl)-4-aminomethylsalicylate | 6.17 g, 84% yield | C(C1=CC=CC=C1)OC(=O)NCC=1C=C(C(C(=O)OC)=CC1)O | C17H17NO5
